US07402684B2
(S)-2-(5-Benzoyl-pyridin-2-yloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
To a solution of N—BOC-L-prolinol (500 mg, 3.25 mmol) in anhydrous DMF (7 ml) was added NaH (124 mg, 60% dispersion in oil, 3.1 mmol) and stirred for 15 min at rt. A solution of product from Example 140, step 2 (364 mg, 1.68 mmol) in anhy.DMF (5 ml) was added dropwise over 5 min. The mixture was stirred at rt for 48 h. The mixture was poured into EtOAc and water, the organic layer dried over MgSO4, and concentrated. Silica gel flash chromatography using EtOAc/hexanes gave the title compound (185 mg, 29%).

reactant | N—BOC-L-prolinol | 3.25 mmol, 500 mg | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
reactant | NaH | 3.1 mmol, 124 mg | [H-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S)-2-(5-Benzoyl-pyridin-2-yloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 185 mg, 29% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=NC=C(C=C1)C(C1=CC=CC=C1)=O | C22H26N2O4
